US07759382B2
A solution of 0.68 g (1.7 mmol) of 4-(5-amino-1-tert-butyl-1H-pyrazol-3-yl)-4-phenylpiperidine-1-carboxylic acid tert-butyl ester and 0.39 g (1.7 mmol) of carbobenzyloxy-L-alanine in 9.0 mL of dry pyridine was stirred at −10° C. as 0.18 mL (1.9 mmol) of POCl3 was added. After 25 min, the reaction mixture was poured into 1M HCl and extracted with EtOAc. The organic layer washed with sat. aq. NaHCO3, dried over MgSO4 and concentrated. Purification on silica gel using 50:50 EtOAc-hexanes as eluant afforded 4-[5-(2-benzyloxycarbonylamino-propionylamino)-1-tert-butyl-1H-pyrazol-3-yl]-4-phenylpiperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-(5-amino-1-tert-butyl-1H-pyrazol-3-yl)-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | 1.7 mmol, 0.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C1=NN(C(=C1)N)C(C)(C)C | C23H34N4O2
reactant | carbobenzyloxy-L-alanine | 1.7 mmol, 0.39 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | POCl3 | 1.9 mmol, 0.18 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 1M | Cl | ClH
solvent | pyridine | 9.0 mL | N1=CC=CC=C1 | C5H5N
product | 4-[5-(2-benzyloxycarbonylamino-propionylamino)-1-tert-butyl-1H-pyrazol-3-yl]-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C1=NN(C(=C1)NC(C(C)NC(=O)OCC1=CC=CC=C1)=O)C(C)(C)C | C34H45N5O5
